US06921763B2
Cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-7-isopropyl-1,3-benzoxazol-2-amine diacetate was prepared from cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.250 g, 0.566 mmol) and N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-7-isopropyl-1,3-benzoxazol-2-amine (0.339 g, 0.708 mmol) in a manner similar to that used for the preparation of cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine. The compound was formed as an off-white solid (0.205 g, 64%).

reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.566 mmol, 0.250 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-7-isopropyl-1,3-benzoxazol-2-amine | 0.708 mmol, 0.339 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=CC=C2C(C)C)C | C22H27BN2O3
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=CC=C1)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32FN9O
product | Cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-7-isopropyl-1,3-benzoxazol-2-amine diacetate | C(C)(=O)O.C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=CC=C1C(C)C)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | InChI=1S/C32H39N9O.2C2H4O2/c1-20(2)25-5-4-6-26-29(25)42-32(37-26)36-22-9-7-21(8-10-22)28-27-30(33)34-19-35-31(27)41(38-28)24-13-11-23(12-14-24)40-17-15-39(3)16-18-40;2*1-2(3)4/h4-10,19-20,23-24H,11-18H2,1-3H3,(H,36,37)(H2,33,34,35);2*1H3,(H,3,4)/t23-,24+;;
